US04402734
23.5 Grams (0.1 mol) of ethyl 2,6-diethylanilinoacetate and 11.3 g (0.1 mol) of monochloroacetic acid chloride were dissolved in 100 ml of benzene, 11.0 g of triethylamine was then added dropwise thereto with stirring maintaining the reaction temperature at 10°-20° C. and, thereafter, stirring was continued for further 2 hours at a room temperature. The reaction solution was washed with successive, 5% sodium hydroxide aqueous solution, 5% hydrochloric acid aqueous solution, and water. Then, the benzene layer was dried over anhydrous sodium sulfate. Thereafter, benzene was removed under reduced pressure to obtain the end product, ethyl N-chloroacetyl-2,6-diethylanilinoacetate. nD26 : 1.5225.

reactant | ethyl 2,6-diethylanilinoacetate | 0.1 mol | C(C)C1=C(NCC(=O)OCC)C(=CC=C1)CC | C14H21NO2
reactant | monochloroacetic acid chloride | 0.1 mol, 11.3 g | ClCC(=O)Cl | C2H2Cl2O
reactant | triethylamine | 11.0 g | C(C)N(CC)CC | C6H15N
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | ethyl N-chloroacetyl-2,6-diethylanilinoacetate | ClCC(=O)N(C1=C(C=CC=C1CC)CC)CC(=O)OCC | C16H22ClNO3
